US04752646
A mixture of 10 g (37.9 mmol) of rac-3,4-dihydro-6-acetyloxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-ol and 10 g of 4A molecular sieves in 200 mL of anhydrous ether was stirred with ice-bath cooling while HCl gas was bubbled in for 30 min. The mixture was filtered and the filtrate concentrated in vacuo. The residue was taken up in 600 mL of hexane and anhydrous CaCl2 was added. The mixture was stirred for 1 hr then filtered and the filtrate was concentrate in vacuo giving 4.3 g (40.2% yield) of rac-2-chloro-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol acetate as a colorless solid, mp 102°-106° C., which was unstable to column or thin layer chromatography.

reactant | rac-3,4-dihydro-6-acetyloxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-ol | 37.9 mmol, 10 g | C(C)(=O)OC=1C(=C(C2=C(CCC(O2)(O)C)C1C)C)C | C15H20O4
reactant | HCl | Cl | ClH
solvent | ether | 200 mL | CCOCC | C4H10O
product | rac-2-chloro-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol acetate | 4.3 g, 40.2% yield | C(C)(=O)OC=1C(=C(C2=C(CCC(O2)(C)Cl)C1C)C)C | C15H19ClO3
